US08097610B2
Preparation of [4-chloro-3-[2-[3,5-dimethyl-4-(6-trifluoromethyl benzothiazole-2-yl)piperazine-1-yl]ethoxy]phenyl]acetic acid
A mixture of [4-chloro-3-[2-[3,5-dimethyl-4-(6-trifluoromethyl benzothiazole-2-yl)piperazine-1-yl]ethoxy]phenyl]acetic acid methyl ester (178 mg), 2N aqueous sodium hydroxide (0.66 mL), tetrahydrofuran (2 mL) and methanol (2 mL) was stirred at room temperature for 2 hours. The mixture was neutralized with 2N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and dried over sodium sulphate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph on silica gel to give the title compound (83 mg). Yield: 48%.

reactant | [4-chloro-3-[2-[3,5-dimethyl-4-(6-trifluoromethyl benzothiazole-2-yl)piperazine-1-yl]ethoxy]phenyl]acetic acid methyl ester | 178 mg | COC(CC1=CC(=C(C=C1)Cl)OCCN1CC(N(C(C1)C)C=1SC2=C(N1)C=CC(=C2)C(F)(F)F)C)=O | C25H27ClF3N3O3S
reactant | sodium hydroxide | 2N, 0.66 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | [4-chloro-3-[2-[3,5-dimethyl-4-(6-trifluoromethyl benzothiazole-2-yl)piperazine-1-yl]ethoxy]phenyl]acetic acid | 83 mg, Yield: 48% | ClC1=C(C=C(C=C1)CC(=O)O)OCCN1CC(N(C(C1)C)C=1SC2=C(N1)C=CC(=C2)C(F)(F)F)C | C24H25ClF3N3O3S
